US08580815B2
Step 1: preparation of methyl 3-(trifluoromethyl)-4-methylbenzoate
A reactor is charged with 1 g (4.9 mmol) of 3-(trifluoromethyl)-4-methylbenzoic acid in 10 ml methanol in the presence of a catalytic amount of sulphuric acid. The mixture is heated for 6 hours at reflux. The solvent is then evaporated under reduced pressure and 100 ml of a saturated sodium bicarbonate solution is added to the mixture. The solution is extracted by 3*30 ml ethyl acetate. The organic phases are combined, dried on sodium sulphate and evaporated under reduced pressure to give the expected product (1 g, 95%).

reactant | 3-(trifluoromethyl)-4-methylbenzoic acid | 4.9 mmol, 1 g | FC(C=1C=C(C(=O)O)C=CC1C)(F)F | C9H7F3O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 ml | CO | CH4O
product | methyl 3-(trifluoromethyl)-4-methylbenzoate | 1 g, 95% | FC(C=1C=C(C(=O)OC)C=CC1C)(F)F | C10H9F3O2
